US04421922
Sodium benzylate in tetrahydrofuran was reacted using the procedure of Example 1 with 4-chloroacetoacetic isopropyl ester. The resultant 4-benzyloxyacetoacetic acid isopropyl ester was subsequently hydrogenolyzed. The 4-hydroxyacetoacetic isopropyl ester thus formed was converted at ambient temperature into tetronic acid by treatment with 18 percent HCl. The total yield, related to the 4-chloroacetoacetic isopropyl ester, was 78 percent.

reactant | Sodium | [Na] | Na
reactant | 4-chloroacetoacetic isopropyl ester | C(C)(C)OC(CC(=O)CCl)=O | C7H11ClO3
reactant | 4-benzyloxyacetoacetic acid isopropyl ester | C(C)(C)OC(CC(=O)COCC1=CC=CC=C1)=O | C14H18O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-hydroxyacetoacetic isopropyl ester | C(C)(C)OC(CC(=O)CO)=O | C7H12O4
